US08404679B2
N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-acetyl]-pyrrolidin-3-yl}-2-(4-fluoro-phenyl)-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-acetyl]-pyrrolidin-3-yl}-2-(4-fluoro-phenyl)-N-methyl-acetamide was prepared from N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide using (1,1-Dioxo-1lambda*6*-thiomorpholin-4-yl)-acetic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a colorless oil. MS m/e: 556.1 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C(CC1=CC=C(C=C1)F)=O)C | C19H19Cl2FN2O
reactant | (1,1-Dioxo-1lambda*6*-thiomorpholin-4-yl)-acetic acid | O=S1(CCN(CC1)CC(=O)O)=O | C6H11NO4S
product | N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-acetyl]-pyrrolidin-3-yl}-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(CN1CCS(CC1)(=O)=O)=O)N(C(CC1=CC=C(C=C1)F)=O)C | C25H28Cl2FN3O4S
